US08049009B2
Dealkylation of (R)-9-[2-(Diethyl phosphonomethoxy)propyl]adenine is carried out in presence of a suitable dealkylating reagents selected from mineral acids like aq. HBr, aq. HCl, HBr in acetic acid or HCl gas in IPA with mole ratio ranging from 3 to 15 preferably 7.5 moles and typically at a temperature of about 25 to 110° C., usually at 90 to 95° C. (R)-9-[2-(Diethyl phosphonomethoxy)propyl]adenine and one of the acid described above are maintained at 90 to 95° C. for about 3 to 15 hrs, after completion of reaction, the reaction mass is washed with Methylenedichloride and pH is adjusted to about 1.5 to 3.5 preferably at 2.5 to 3.0 with caustic lye solution. Reaction mass is cooled to about 25 to 35° C. and finally to about 0 to 5° C. over 4 to 10 hrs. The precipitated product is filtered and the wet material is recrystallized in water to get pure (R)-9-[2-(phosphonomethoxy)propyl]adenine with improved yield.

reactant | (R)-9-[2-(Diethyl phosphonomethoxy)propyl]adenine | C(C)C(O[C@@H](CN1C2=NC=NC(=C2N=C1)N)C)(P(=O)(O)O)CC | C13H22N5O4P
reactant | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | HCl | Cl | ClH
solvent | IPA | CC(C)O | C3H8O
product | (R)-9-[2-(phosphonomethoxy)propyl]adenine | P(=O)(O)(O)CO[C@@H](CN1C2=NC=NC(=C2N=C1)N)C | C9H14N5O4P
